US07863291B2
To 5-chloro-4-methylpyridin-2-amine (0.41 g, 2.88 mmol) in dichloromethane (25 mL) was added 1,1′-thiocarbonyldipyridin-2(1H)-one (0.70 g, 3.0 mmol). The reaction was stirred at 40° C. for 3 hours. The reaction was cooled to room temperature. The crude mixture was purified by chromatography (Biotage: 25-100% ethyl acetate/hexane) to yield 5-chloro-2-isothiocyanato-4-methylpyridine (0.45 g, 2.44 mmol, 85% yield). 1H NMR (500 MHz, DMSO-D6) δ ppm 8.45 (s, 1 H), 7.47 (s, 1 H), 2.37 (s, 3 H). LC/MS RT=2.79; [M+H]+=184.9.

reactant | 5-chloro-4-methylpyridin-2-amine | 2.88 mmol, 0.41 g | ClC=1C(=CC(=NC1)N)C | C6H7ClN2
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 3.0 mmol, 0.70 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-chloro-2-isothiocyanato-4-methylpyridine | 2.44 mmol, 0.45 g, 85% yield | ClC=1C(=CC(=NC1)N=C=S)C | C7H5ClN2S
